US05140026
1-[(3-Chloropropyl)thio]-4-nitrobenzene
4-Nitrothiophenol (80%, 25.0 g, 129 mmol) was added to a solution formed by adding sodium (5.55 g, 242 mmol) to methanol (500 mL) maintained at 0° C. After 0.5 h the reaction was warmed to ambient temperature and 1-bromo-3-chloropropane (50.7 g, 322 mmol) was added in one portion. The reaction mixture was stirred overnight and filtered. The filtrate was reduced to half volume and the solid which formed was collected by filtration. Recrystallization from methanol afforded 15.4 g (51%) of yellow solid, mp 50°-52° C.

reactant | 4-Nitrothiophenol | 129 mmol, 25.0 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | sodium | 242 mmol, 5.55 g | [Na] | Na
reactant | 1-bromo-3-chloropropane | 322 mmol, 50.7 g | BrCCCCl | C3H6BrCl
solvent | methanol | 500 mL | CO | CH4O
product | 1-[(3-Chloropropyl)thio]-4-nitrobenzene | 15.4 g, 51% | ClCCCSC1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO2S
